US04291170
Preparation of 3-methyl-4-oxo-pentane-1-carboxylic acid ethyl ester
Fraction (b) contains 95% by weight of ethyl ester of 3-methyl-4-oxopentane-1-carboxylic acid and 2% by weight of ethyl ester of 4-oxo-hexane-1-carboxylic acid. 41% of the total amount of ethyl acrylate has been converted. The efficiency in ethyl ester of 3-methyl-4-oxo-pentane-1-carboxylic acid amounts to 56% referred to the quantity of converted methyl ethyl ketone, and to 58% referred to the quantity of converted ethyl acrylate.

reactant | 3-methyl-4-oxopentane-1-carboxylic acid | CC(CCC(=O)O)C(C)=O | C7H12O3
reactant | 4-oxo-hexane-1-carboxylic acid | O=C(CCCC(=O)O)CC | C7H12O3
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 3-methyl-4-oxo-pentane-1-carboxylic acid ethyl ester | C(C)OC(=O)CCC(C(C)=O)C | C9H16O3
